US06809108B1
(2R)-N-{((3R)-1-allyl-3-piperidyl)methyl}-1-{(2S,4R)-4-hydroxy-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonylpyrrolidine-2-carboxamide
To a solution of 37 mg of (2R)-N-((3S)-3-piperidylmethyl)-1-{(2S)-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonylpyrrolidine-2-carboxamide in 0.9 ml of acetonitrile, 0.0055 ml of allyl bromide and 25 mg of potassium carbonate were added at room temperature, followed by 1.5 hours' stirring at 80° C. under heating. The reaction liquid was diluted with chloroform, washed successively with water and 1N aqueous sodium hydroxide solution, and dried over anhydrous sodium sulfate. After distilling the solvent off under reduced pressure, the resulting residue was purified with a preparative thin-layer chromatography (Kieselgel™ 60F254, Art 5744 (Merck), chloroform/methanol/28% aqueous ammonia=100/10/1), to provide 23 mg of the title compound as a white solid.

reactant | (2R)-N-((3S)-3-piperidylmethyl)-1-{(2S)-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonylpyrrolidine-2-carboxamide | 37 mg | N1C[C@H](CCC1)CNC(=O)[C@@H]1N(CCC1)C(=O)[C@H]1N(CCC1)C(CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C37H44N4O3
reactant | potassium carbonate | 25 mg | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 0.0055 ml | C(C=C)Br | C3H5Br
solvent | acetonitrile | 0.9 ml | C(C)#N | C2H3N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (2R)-N-{((3R)-1-allyl-3-piperidyl)methyl}-1-{(2S,4R)-4-hydroxy-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonylpyrrolidine-2-carboxamide | 23 mg | C(C=C)N1C[C@H](CCC1)CNC(=O)[C@@H]1N(CCC1)C(=O)[C@H]1N(C[C@@H](C1)O)C(CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C40H48N4O4
